US04791123
A solution of butyllithium in hexane (1.6 molar; 30 ml) was added, dropwise, under a nitrogen atmosphere to [2-(4-fluoro-3-phenoxyphenyl)ethyl]triphenylphosphonium bromide (26.76 g; 48 mmol) in absolute tetrahydrofuran (200 ml). After stirring for two hours, 2-(4-methoxyphenyl)-2-trifluoromethylpropionaldehyde (10.13 g; 43.63 mmol) dissolve in absolute tetrahydrofuran (80 ml) was added, dropwise. The mixture was heated at reflux for 3 hours and then added to ice-water, extracted with ethyl acetate, the extract dried over sodium sulphate and evaporated. After chromatography on silica gel using hexane/ethyl acetate as eluent, there was obtained 1-(4-fluoro-3-phenoxyphenyl)-4-(4-phenoxyphenyl)-4-trifluoromethyl-2-pentene (15.2 g=80.5% of theory).

reactant | butyllithium | C(CCC)[Li]
reactant | [2-(4-fluoro-3-phenoxyphenyl)ethyl]triphenylphosphonium bromide | 48 mmol, 26.76 g | [Br-].FC1=C(C=C(C=C1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC1=CC=CC=C1
reactant | 2-(4-methoxyphenyl)-2-trifluoromethylpropionaldehyde | 43.63 mmol, 10.13 g | COC1=CC=C(C=C1)C(C=O)(C)C(F)(F)F | C11H11F3O2
reactant | hexane | 1.6 molar, 30 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 1-(4-fluoro-3-phenoxyphenyl)-4-(4-phenoxyphenyl)-4-trifluoromethyl-2-pentene | 15.2 g, 80.5% | FC1=C(C=C(C=C1)CC=CC(C)(C(F)(F)F)C1=CC=C(C=C1)OC1=CC=CC=C1)OC1=CC=CC=C1 | C30H24F4O2
